US05942515
Preparation of ethyl 7-chloro-6-(2-chloroethyl)-5-methylpyrazolo[1,5-a]pyrimidine-3-carboxylate:
To 0.34 g (1.28 mmol) of ethyl 6-(2-hydroxyethyl)-5-methylpyrazolo[1,5-a]pyrimidin-7(4H)-one-3-carboxylate were successively added 0.4 ml (d=1.645, 4.29 mmol) of phosphorus oxychloride and 0.36 ml (d=0.726, 2.59 mmol) of triethylamine. The mixture was then stirred for 2 hours and 15 minutes in an oil bath heated to 100° C. under a nitrogen atmosphere. Thereafter, the reaction mixture was cooled with ice water and dissolved in 10 ml of chloroform, and the solution was poured into 30 ml of ice water. After the pH of the mixture was adjusted to about 6 with a saturated aqueous solution of sodium hydrogencarbonate, and the thus-treated mixture was fully shaken, the organic layer was separated. The water layer was further extracted with chloroform (10 ml×2). After all the organic layers were put together and dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was subjected to column chromatography on silica gel (chloroform) to obtain 0.33 g (yield: 84.6%) of the intended product.

reactant | ethyl 6-(2-hydroxyethyl)-5-methylpyrazolo[1,5-a]pyrimidin-7(4H)-one-3-carboxylate | 1.28 mmol, 0.34 g | OCCC1=C(NC=2N(C1=O)N=CC2C(=O)OCC)C | C12H15N3O4
reactant | phosphorus oxychloride | 4.29 mmol, 0.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 2.59 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 7-chloro-6-(2-chloroethyl)-5-methylpyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.33 g, yield: 84.6% | ClC1=C(C(=NC=2N1N=CC2C(=O)OCC)C)CCCl | C12H13Cl2N3O2
